US09108944B2
BBr3 (1M in DCM, 2.9 mL, 2.9 mmol) was added dropwise to a solution of (4-(benzyloxy)butyl)(4,4,5,5,5-pentafluoropentyl)sulfane (340 mg, 0.95 mmol) in DCM (5 mL) cooled to −78° C. The temperature was allowed to warm up to room temperature and the mixture was stirred for 18 h. Water was slowly added and the reaction mixture was stirred for 10 min. The two layers were separated and the aqueous layer was extracted with DCM (3×). The organics were combined, dried over sodium sulfate, and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 50 to 100% EtOAc/hexanes to afford 171 mg of 4-((4,4,5,5,5-pentafluoropentyl)thio)butan-1-ol as a colorless oil.

reactant | BBr3 | 2.9 mmol, 1M, 2.9 mL | B(Br)(Br)Br | BBr3
reactant | (4-(benzyloxy)butyl)(4,4,5,5,5-pentafluoropentyl)sulfane | 0.95 mmol, 340 mg | C(C1=CC=CC=C1)OCCCCSCCCC(C(F)(F)F)(F)F | C16H21F5OS
reactant | Water | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-((4,4,5,5,5-pentafluoropentyl)thio)butan-1-ol | 171 mg | FC(CCCSCCCCO)(C(F)(F)F)F | C9H15F5OS
